US04464299
3-(4-Methyl-2-oxo-1,3-dioxolan-4-yl)-4-(2-oxopropyl)-2-azetidinone (C-5)
A mixture of Dioxolane (B-5)(1.62 g), tetraethylammonium fluoride dihydrate (1.38 g) and acetic acid (0.5 ml) in tetrahydrofuran (10 ml) is stirred at room temperature for 2 hours. The reaction mixture is diluted with ethyl acetate (50 ml), washed with saturated saline, dried and concentrated. The residue purified by silica gel chromatography to give tilted Lactam (C-5)(895 mg) from the fractions eluted with benzene-ethyl acetate (1:5).

reactant | Dioxolane | O1COCC1 | C3H6O2
reactant | tetraethylammonium fluoride dihydrate | 1.38 g | O.O.[F-].C(C)[N+](CC)(CC)CC
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(4-Methyl-2-oxo-1,3-dioxolan-4-yl)-4-(2-oxopropyl)-2-azetidinone | CC1(OC(OC1)=O)C1C(NC1CC(C)=O)=O | C10H13NO5
